US04788130
To a mixture of 1.50 g of 4-(3-chlorophenyl)piperazine and 0.31 g of sodium hydride was added 2.4 ml of epichlorohydrin and the reaction mixture was stirred at room temperature for 30 minutes. After the reaction was completed, the reaction mixture was extracted with 100 ml of ethyl acetate, and the extract was washed 5 times with 100 ml of water, then dried with anhydrous magnesium sulfate. The solvent was removed by evaporation to obtain the residue which was purified by means of a silica gel column chromatography (eluent:ethyl acetate:n-hexane=1:1) to obtain 1.66 g of 4-(3-chlorophenyl)-1-(2,3-epoxypropyl)piperazine as in the form of an oily substance.

reactant | 4-(3-chlorophenyl)piperazine | 1.50 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | sodium hydride | 0.31 g | [H-].[Na+]
reactant | epichlorohydrin | 2.4 ml | C(Cl)C1CO1 | C3H5ClO
product | 4-(3-chlorophenyl)-1-(2,3-epoxypropyl)piperazine | 1.66 g | ClC=1C=C(C=CC1)N1CCN(CC1)CC1CO1 | C13H17ClN2O
